US06288061B1
tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate (2.8 g) and benzylamine (2.4 g) were dissolved in acetonitrile (80 ml), and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 5 to give tert-butyl 2-phenyl-5-(4-pyridyl)imidazole-4-carboxylate (1.4 g), melting point 205-206° C.

reactant | tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate | 2.8 g | ON=C(C(=O)OC(C)(C)C)C(C1=CC=NC=C1)=O | C12H14N2O4
reactant | benzylamine | 2.4 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | tert-butyl 2-phenyl-5-(4-pyridyl)imidazole-4-carboxylate | 1.4 g | C1(=CC=CC=C1)C=1NC(=C(N1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C19H19N3O2
